US09328118B2
A 2 M solution of methylamine and triethylamine (1.8 mL) in THF (4.6 mL) were added to a solution of 2,4,6-trichloro-5-nitropyrimidine (2 g) in THF (30 mL) under ice-cooling, and the mixture was stirred for 1 hour under ice-cooling. After water was added to the reaction mixture, extraction thereof was performed using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=99:1 to 90:10), whereby 2,6-dichloro-N-methyl-5-nitropyrimidine-4-amine (680 mg) was obtained as a pale yellow solid.

reactant | methylamine | CN | CH5N
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichloro-5-nitropyrimidine | 2 g | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C4Cl3N3O2
reactant | water | O | H2O
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,6-dichloro-N-methyl-5-nitropyrimidine-4-amine | 680 mg | ClC1=NC(=C(C(=N1)NC)[N+](=O)[O-])Cl | C5H4Cl2N4O2
